US07615642B2
Step B. methyl 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}pyrrolidine-3-carboxylate
A suspension of 2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride (1.21 g, 3.26 mmol) in DCL (25 mL) was slowly added to a solution of 3-(methoxycarbonyl)pyrrolidine hydrochloride (0.46 g, 3.58 mmol) and DIPLA (5.6 mL, 32.6 mmol) in DCE (80 mL). The reaction mixture was stirred for 3 h and the solvent was concentrated. The product was purified by MPLC on silica gel using EtOAc as eluent to provide the title compound as white solid. Yield: 0.60 g (39%); 1H NMR (400 MHz, CDCl3) δ 1.49-1.56 (m, 3 H), 1.55-1.58 (m, 1 H), 1.59 (s, 9 H), 1.93-2.13 (m, 2 H), 2.20-2.36 (m, 1 H), 2.89-3.01 (m, 1 H), 3.28-3.41 (m, 5 H), 3.60 (s, 3 H), 3.61-3.66 (m, 1 H), 3.94-4.06 (m, 2 H), 4.25 (d, J=7.42 Hz, 2 H), 7.44 (dd, J=8.50, 0.49 Hz, 1 H), 7.72 (dd, J=8.59, 1.76 Hz, 1 H), 8.24 (dd, J=1.76, 0.59 Hz, 1 H); MS (ESI) (M+H)+=464.0.

reactant | 2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride | 3.26 mmol, 1.21 g | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)Cl | C17H23ClN2O3S
reactant | 3-(methoxycarbonyl)pyrrolidine hydrochloride | 3.58 mmol, 0.46 g | Cl.COC(=O)C1CNCC1
solvent | DCE | 80 mL | ClCCCl | C2H4Cl2
product | methyl 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}pyrrolidine-3-carboxylate | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2CC(CC2)C(=O)OC | C23H33N3O5S
